US04395549
1 g. of 9-methyl-6-phenylhydrazono-1,2,3,4,6,7,8,9-octahydro-pyrido[2,1-b]quinazoline-11-one is added to 15 g. of polyphosphoric acid heated to 170° C. and the mixture is stirred for 20 minutes at 180° C. After cooling the dark melt is diluted with 50 ml. of water. Greenish-yellow crystals are precipitated, which are filtered and washed with water. After drying the product is recrystallized from ethanol. 0.4 g. of 7-methyl-5-oxo-1,2,3,4,7,8-hexahydro-5H,13H-indolo[2',3';3,4]pyrido-[2,1-b]quinazoline are obtained melting at 232° C.

reactant | 9-methyl-6-phenylhydrazono-1,2,3,4,6,7,8,9-octahydro-pyrido[2,1-b]quinazoline-11-one | CC1CCC(C2=NC=3CCCCC3C(N21)=O)=NNC2=CC=CC=C2 | C19H22N4O
solvent | water | O | H2O
product | 7-methyl-5-oxo-1,2,3,4,7,8-hexahydro-5H,13H-indolo[2',3';3,4]pyrido-[2,1-b]quinazoline | CC1CC2=C(C3=NC=4CCCCC4C(N31)=O)NC3=CC=CC=C32 | C19H19N3O
